US08084395B2
23 g (68.2 mmoles) of 2-(4-Fluoro-phenyl)-2-(3-nitro-pyridin-2-yl)-1-pyridin-4-yl-ethanone is dissolved in 700 mL of absolute ethanol. 2.2 g of 10% Palladium on charcoal is added to the solution which is stirred for 6 hours under a hydrogen atmosphere. The reaction mixture is filtered over celite, concentrated and the brown residue is purified by chromatography on silica gel (ethylacetate) to give 7 g of 3-(4-Fluoro-phenyl)-2-pyridin-4-yl-pyrrolo[3,2-b]pyridin-1-ol and 13 g of the starting material is recovered.

reactant | 2-(4-Fluoro-phenyl)-2-(3-nitro-pyridin-2-yl)-1-pyridin-4-yl-ethanone | 68.2 mmoles, 23 g | FC1=CC=C(C=C1)C(C(=O)C1=CC=NC=C1)C1=NC=CC=C1[N+](=O)[O-] | C18H12FN3O3
solvent | ethanol | 700 mL | C(C)O | C2H6O
catalyst | Palladium on charcoal | 2.2 g | [Pd] | Pd
product | 3-(4-Fluoro-phenyl)-2-pyridin-4-yl-pyrrolo[3,2-b]pyridin-1-ol | 7 g | FC1=CC=C(C=C1)C1=C(N(C=2C1=NC=CC2)O)C2=CC=NC=C2 | C18H12FN3O
